US06815458B2
To a solution of commercially available tert-butyl 4-oxo-1-piperidine carboxylate (400 mg, 2 mmol) in methanol (1 ml) and 2-chlorobenzylamine (0.121 ml, 1 mmol) in methanol (1 ml) was added acetic acid in methanol (1 M, 1.34 ml) followed by NaCNBH3 in methanol (0.3 M, 4.4 ml). The resulting solution was stirred at room temperature. After 24 h, water (2 ml) was added, and the mixture was stirred for 1 h before it was concentrated. The resulting oil was redissolved in diethyl ether (20 ml), extracted with HCl (0.1 N, 1×15 ml). The aqueous layer was washed with diethyl ether (10 ml) and treated with 0.2 N NaOH until basic (pH>8), before extracted with dichloromethane (20 ml). The organic layer was dried (Na2SO4), filtered, and concentrated to give tert-butyl 4-((2-chlorophenyl)methyl)amino-piperidine carboxylate. Yield: 137 mg. To a solution of tert-butyl 4-((2-chlorophenyl)methyl)amino-piperidine carboxylate (50 mg, 0.15 mmol) in dichloromethane (6 ml) was added diisopropylethylamine (0.070 ml, 0.4 mmol) followed by 4-methoxyphenylacetyl chloride (0.055 ml, 0.35 mmol). The reaction mixture was stirred at room temperature. After 18 h, water (2 ml) was added. The mixture was stirred for another 2 h. The mixture was sequentially washed with HCl (0.2 N, 2×15 ml), NaOH (0.2 N, 2×15 ml), and water (10 ml), dried (Na2SO4), filtered and concentrated to give N-((2-chlorophenyl)methyl)-N-(1-(tert-butyloxycarbonyl)piperidin-4-yl)-4-methoxyphenylacetamide. The crude product was used without any further purification. N-((2-Chlorophenyl)methyl)-N-(1-(tert-butyloxycarbonyl)piperidin-4-yl)-4-methoxyphenylacetamide was dissolved in diethyl ether (2 ml) and HCl (1 ml, 4 M in dioxane) was added. The reaction mixture was stirred at room temperature. After 2.5 h, NaOH (1 ml, 6 N) was added followed by dichloromethane (10 ml). The mixture was extracted with water (2×15 ml), dried (Na2SO4), filtered to give a clear solution. The solution was added on to a column carrying strongly acidic cation exchange resin (0.3 mmol/g resin), which was washed with methanol (3×6 ml), and eluted with 10% NH3 in methanol, and concentrated to give the title compound. Yield: 45 mg; 13C-NMR (CD3OD, rotamers): δ 25.8, 26.9, 40.0, 40.1, 42.9, 43.4, 43.7, 46.0, 51.1, 53.0, 54.6, 113.77, 113.84, 114.0, 114.1, 126.6, 126.8, 127.08, 127.13, 127.3, 127.4, 128.1, 129.0, 129.2, 129.8, 130.0, 130.2, 131.9, 132.2, 135.0, 135.3, 159.1, 173.4, 173.8.

reactant | tert-butyl 4-oxo-1-piperidine carboxylate | 2 mmol, 400 mg | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
reactant | 2-chlorobenzylamine | 1 mmol, 0.121 ml | ClC1=C(CN)C=CC=C1 | C7H8ClN
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | NaCNBH3 | [BH3-]C#N.[Na+]
solvent | methanol | 1 ml | CO | CH4O
solvent | methanol | 1 ml | CO | CH4O
solvent | methanol | 1 M, 1.34 ml | CO | CH4O
solvent | methanol | 0.3 M, 4.4 ml | CO | CH4O
solvent | water | 2 ml | O | H2O
product | tert-butyl 4-((2-chlorophenyl)methyl)amino-piperidine carboxylate | ClC1=C(C=CC=C1)CNC1CCN(CC1)C(=O)OC(C)(C)C | C17H25ClN2O2
